US06919356B2
Part M: Preparation of 1-{1-[3-(4-fluorophenyl)-2,2-dimethylpropionyl]-piperidin-3-ylmethyl}-3-[3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-urea
A solution of 1-[3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-3-piperidin-3-ylmethylurea hydrochloride (100 mg, 284 μmol), 3-(4-fluorophenyl)-2,2-dimethylpropionic acid (56 mg, 284 μmol) and triethylamine (158 μL, 1.14 mmol) in dichloromethane (2 mL) was treated with benzotriazol-1-yloxy-tripyrrolidinophosphonium hexafluorophosphate (177 mg, 341 μmol) and the mixture was stirred at room temperature for 17 hours. The mixture was diluted with dichloromethane, washed with saturated aqueous sodium hydrogen carbonate and then with 1.0 N aqueous hydrochloric acid, dried (sodium sulfate) and concentrated under vacuum. The residue was purified by flash chromatography, eluting with 25% hexane in ethyl acetate, to provide an amorphous white solid. 1H NMR (300 MHz, CDCl3) δ7.83 (s, 1H), 7.58 (d, J=7 Hz, 1H), 7.38 (t, J=8 Hz, 1H), 7.28 (m, 1H), 7.05 (m, 2H), 6.90 (t, J=9 Hz, 2H), 4.18 (s, 3H), 4.10 (m, 2H), 3.31 (m, 2H), 3.00 (m, 2H), 2.90 (s, 2H), 1.90 (m, 1H), 1.77 (m, 2H), 1.56 (m, 1H), 1.40 (m, 1H), 1.23 (s, 6H). Mass spec (AP+) m/z 494.2 (M+H+).

reactant | 1-[3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-3-piperidin-3-ylmethylurea hydrochloride | 284 μmol, 100 mg | Cl.CN1N=NN=C1C=1C=C(C=CC1)NC(=O)NCC1CNCCC1
reactant | 3-(4-fluorophenyl)-2,2-dimethylpropionic acid | 284 μmol, 56 mg | FC1=CC=C(C=C1)CC(C(=O)O)(C)C | C11H13FO2
reactant | triethylamine | 1.14 mmol, 158 μL | C(C)N(CC)CC | C6H15N
reactant | benzotriazol-1-yloxy-tripyrrolidinophosphonium hexafluorophosphate | 341 μmol, 177 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 1-{1-[3-(4-fluorophenyl)-2,2-dimethylpropionyl]-piperidin-3-ylmethyl}-3-[3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-urea | FC1=CC=C(C=C1)CC(C(=O)N1CC(CCC1)CNC(=O)NC1=CC(=CC=C1)C1=NN=NN1C)(C)C | C26H32FN7O2
